US05686480
3-(1,2,3,4-Tetrahydroisoquinolin-2-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole
A solution of (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide (0.40 g), 1,2,3,4-tetrahydroisoquinoline (0.20 cm3) and diisopropylethylamine (0.28 cm3) in DMF (10 cm3) was heated under argon at 80° C. for 24 hours, then stirred at room temperature for 48 hours. The mixture was poured into water (30 cm3) and extracted with ethyl acetate (2×20 cm3). The organic extracts were dried (MgSO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 5% ethanol-ethyl acetate, gave a yellow oil that crystallised on standing. The material was recystallised from ethyl acetate-hexane to give the title compound (0.111 g; 33%) as white needles, m.p. 180°-182° C. (from EtOAc-hexane); Found: C, 79.7; H, 6.7; N, 13.1. C21H21N3 requires C, 80.0; H, 6.7; N, 13.3%. δH (360 MHz; CDCl3) 2.72-2.80 (4H, m, 2 x --CH2 --), 2.90-2.98 (4H, m, 2 x --CH2 --), 3.70 (2H, s, --CH2N), 3.73 (2H, s, --CH2N), 6.99 (1H, d, J5.8, 1 of ArH), 7.10-7.28 (6H, m, 6 of ArH) and 7.79 (1H, d, J 7.3, 1 of ArH); m/z (CI+ ; NH3) 316 (MH+ ; 100%).

reactant | (4,5-dihydro-1H-benzo[g]indazol-3-ylmethyl)-trimethylammonium iodide | 0.40 g | [I-].N1N=C(C=2CCC3=C(C12)C=CC=C3)C[N+](C)(C)C
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.20 cm3 | C1NCCC2=CC=CC=C12 | C9H11N
reactant | diisopropylethylamine | 0.28 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 30 cm3 | O | H2O
solvent | DMF | 10 cm3 | CN(C)C=O | C3H7NO
product | 3-(1,2,3,4-Tetrahydroisoquinolin-2-ylmethyl)-4,5-dihydro-1H-benzo[g]indazole | 0.111 g, 33% | C1N(CCC2=CC=CC=C12)CC1=NNC=2C3=C(CCC12)C=CC=C3 | C21H21N3
